US07361671B2
An solution of sodium cyanide (97.7 g, 1.99 mol) in anhydrous DMF (650 mL) is cooled to 0° C. and treated with 2,5-bis-chloromethyl-thiophene (84.7 g, 468 mmol) in one portion. The reaction mixture is allowed to warm to room temperature with stirring for 24 h, then heated to 40° C. for an additional 0.5 h. After cooling to room temperature, chloroform (300 mL) is added and the mixture is poured into saturated aq NaCl. After separation, the aq layer is extracted with chloroform (3×). The combined organic layers are washed with saturated aq NaCl, dried over MgSO4, filtered and concentrated in vacuo. The resulting residue is purified by distillation to give (5-cyanomethyl-thiophen-2-yl)-acetonitrile (19.2 g, 25.3%) as a light brown oil: (bp 160-165° C., 0.75 mm Hg; Rf 0.26 (15% ethyl acetate in heptane); 1H NMR (CDCl3, 300 MHz) δ 6.93 (s, 2 H), 3.85 (s, 4 H).

reactant | sodium cyanide | 1.99 mol, 97.7 g | [C-]#N.[Na+]
reactant | 2,5-bis-chloromethyl-thiophene | 468 mmol, 84.7 g | ClCC=1SC(=CC1)CCl | C6H6Cl2S
reactant | chloroform | 300 mL | C(Cl)(Cl)Cl | CHCl3
reactant | NaCl | [Na+].[Cl-]
reactant | DMF | 650 mL | CN(C)C=O | C3H7NO
product | (5-cyanomethyl-thiophen-2-yl)-acetonitrile | 19.2 g, 25.3% | C(#N)CC1=CC=C(S1)CC#N | C8H6N2S
